US09388189B2
(S)—N-(3-(2-(Dimethylamino)ethoxy)-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (6 mg, 0.01 mmol) was dissolved in 120 μl N,N-dimethylformamide. Sodium carbonate (8 mg, 0.07 mmol) and 2-chloro-N,N-dimethylethanaminium chloride (4 mg, 0.03 mmol) were added and the mixture was stirred at 50° C. overnight. The reaction was poured into water and extracted twice with ethyl acetate. The organics were combined and washed with brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 100%, dichloromethane-dichloromethane/2-propanol 85:15) to give 4 mg (56% yield) of the title compound.

reactant | (S)—N-(3-Hydroxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.01 mmol, 6 mg | OC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)C | C28H26N8O4S
reactant | Sodium carbonate | 0.07 mmol, 8 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-N,N-dimethylethanaminium chloride | 0.03 mmol, 4 mg | [Cl-].ClCC[NH+](C)C
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 120 μl | CN(C=O)C | C3H7NO
product | (S)—N-(3-(2-(Dimethylamino)ethoxy)-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 4 mg, 56% yield | CN(CCOC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)C)C | C32H35N9O4S
